US07563796B2
Using a procedure analogous to the one disclosed in U.S. Pat. No. 3,926,994 and employing ethyl 2-hydroxy-2-(4-methoxy-3-methylphenyl)ethanimidoate hydrochloride salt with 1,2-ethyldiamine, and subsequent reaction with 3-propyloxy phenylmagnesium bromide was dissolved in chloroform (20 mL) gave a reaction mixture. Diisopropylethylamine (2 mL) was added to the reaction mixture, followed by thionyl chloride (1 mL). After 1 hour the reaction mixture was diluted with acetonitrile and cooled to −78° C. The reaction solution was saturated with gaseous ammonia (20 g). The flask was sealed and warmed up to room temperature. After 1 hour the solution was again cooled down to −78° C. and the ammonia was slowly evaporated. Following the removal of ammonia, the remaining solvents were evaporated and the residue was taken up in ethyl acetate, filtered through a pad of silica. The silica pad was eluted with ethyl acetate, then with (40/5/5) ethyl acetate/methanol/ammonium hydroxide. The eluents were combined and concentrated in vacuo to afford [4,5-Dihydro-1H-imidazol-2-yl(4-methoxy-3-methylphenyl)(3-propoxyphenyl)methyl]amine as a yellow amorphous solid (0.6 g), characterized by LCMS analysis. LCMS Conditions: HP 1100 HPLC system; Waters Xterra MS C18, 2 mm (i.d.)×50 mm (length), 3.5 um column, set at 50° C.; Flow rate 1.0 mL/min; Solvent A: 0.02% NH4OH in water; Solvent B 0.02% NH4OH in ACN; Gradient: Time O: 10% B; 2.5 min 90% B; 3 min 90% B; Sample concentration: ˜2.0 mM; Injection volume: 5 uL; Detection: 220 nm, 254 nm DAD.

reactant | ethyl 2-hydroxy-2-(4-methoxy-3-methylphenyl)ethanimidoate hydrochloride salt | Cl.OC(C(OCC)=N)C1=CC(=C(C=C1)OC)C
reactant | 3-propyloxy phenylmagnesium bromide | C(CC)OC=1C=C(C=CC1)[Mg]Br
reactant | Diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 20 g | N | H3N
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | C(C)#N | C2H3N
product | [4,5-Dihydro-1H-imidazol-2-yl(4-methoxy-3-methylphenyl)(3-propoxyphenyl)methyl]amine | 0.6 g | N1C(=NCC1)C(C1=CC(=CC=C1)OCCC)(C1=CC(=C(C=C1)OC)C)N | C21H27N3O2
